spice
* SPICE Netlist for the given circuit

* Components
I1 4 5 DC 0 * Current Source I_in
V1 2 0 DC VDD * Voltage Source V_DD
M1 2 3 0 0 NMOS * NMOS Transistor M1 with D, G, S, B terminals
R1 2 3 RF * Resistor R_F

* Node Assignments
* 0 - Ground
* 1 - Vout (not directly used in netlist)
* 2 - Node at VDD and one side of RF
* 3 - Node at Gate of M1 and one side of RF
* 4 - Node from I_in
* 5 - Ground connection for I_in

.end